US06451805B1
1-Benzyl-3-(5-formyl-2-furyl)pyrazolo[3,4-d]pyrimidine
0.74 ml of POCl3 is added at 0° C. to 0.64 ml of DMF. The solidified mixture is allowed to come to room temperature and 14 ml of 1,2-dichloroethane are added. A solution of 2 g of 1-benzyl-3-(2-furyl)pyrazolo[3,4-d]pyrimidine (Rf=0.45, SiO2, toluene/ethyl acetate=1:1) in 14 ml of 1,2-dichloroethane is added dropwise at 15° C. to this solution and it is then warmed to 80° C. After 4 h, the entire batch is added dropwise to further Vilsmeier reagent, which was prepared from 1.5 ml of POCl3 and 1.3 ml of DMF, and stirred at 80° C. for 24 h. The mixture is then added to a 50% aqueous solution of K2HPO4 and briefly heated to 75° C. with stirring. After extraction with ethyl acetate, drying of the organic phase, concentration in a rotary evaporator and chromatography on SiO2, 0.6 g (27% of theory) of an oil is obtained (Rf=0.3, SiO2, toluene/ethyl acetate=1:1).

reactant | POCl3 | 0.74 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 1-benzyl-3-(2-furyl)pyrazolo[3,4-d]pyrimidine | 2 g | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2)C=2OC=CC2 | C16H12N4O
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | POCl3 | 1.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dichloroethane | 14 ml | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 14 ml | ClCCCl | C2H4Cl2
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-3-(5-formyl-2-furyl)pyrazolo[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2)C=2OC(=CC2)C=O | C17H12N4O2
